Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hospital Medicine Admission Note
Patient seen/examined 1500
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of ITP diagnosed in ___ previously 
treated with prednisone and IVIG who presented with petechial 
rash.
The patient was initially diagnosed with ITP in ___ in ___. 
She was treated with IVIG and prednisone for ___ mos after. She 
was subsequently treated with dexamethasone in ___ and then 
admitted to ___ ___ with PLT of 9. She was treated with 
IVIG and dexamethasone with improvement in her platelets. She 
was seen by Dr. ___ on ___ who discussed ___ and 
___ with the patient. She elected to proceded with 
Rituximab. Of note, she has hepatitis B and GI recommended 
following viral loads while on Rituximab. She is scheduled to 
start in ___.
She presented to the ED when she noted petechial lesions on her 
lower extremities with some brusing. She denies mucocutaneous 
bleeding, specifically denies gum bleeding, vaginal bleeding. No 
blood in stool. Does have a cough which is improving. She did 
have with some blood tinged sputum. Denies cough or body aches. 
Denies headache or vision changes. Does feel very hungry. LMP: 
___- heavy flow x 2 days then normal flow x 2 days

ROS: Remainder 12 point ROS negative
 
Past Medical History:
ITP-dx ___ in ___, treated with IVIG at that time, was on 
50 mg steroids daily x ___ m, then 20 mg for ___ m.
Iron def anemia
APA positive
Hepatitis B
thyroid ca s/p thyroidectomy
hx h pylori
GERD
 
Social History:
___
Family History:
Mother with DM, grandfather and uncle with CAD/PVD. Uncle had 
ITP ___ years ago
 
Physical Exam:
Vitals: 
97.7 BP: 104/56 HRL 56 R: 18 O@: 96%RA
Weight 133.6
Laying in bed in NAD
HEENT: + palate petecchiae, MMM
Lungs: Clear B/L on auscultation
___: RRR S1S2 present
Abdomen: Soft, NT, ND, NO HSM appreciated
EXT: + ecchymosis and petecchiae
NEURO: CN II- XII grossly intact, stregnth ___
Psych: Pleasant and cooperative

Exam on discharge:
Not changed other than improvement in petecchiae on lower 
extremities.
 
Pertinent Results:
___ 04:00AM   GLUCOSE-79 UREA N-16 CREAT-0.7 SODIUM-140 
POTASSIUM-3.3 CHLORIDE-103 TOTAL CO2-25 ANION GAP-15
___ 04:00AM   estGFR-Using this
___ 04:00AM   WBC-7.3# RBC-5.31* HGB-13.8 HCT-43.5 MCV-82 
MCH-26.0 MCHC-31.7* RDW-14.7 RDWSD-43.7
___ 04:00AM   NEUTS-59.1 ___ MONOS-10.5 EOS-2.2 
BASOS-0.7 IM ___ AbsNeut-4.30 AbsLymp-1.95 AbsMono-0.76 
AbsEos-0.16 AbsBaso-0.05
___ 04:00AM   PLT SMR-RARE PLT COUNT-<5

Labs on discharge:
___ 07:35AM BLOOD WBC-9.8 RBC-4.52 Hgb-12.0 Hct-37.0 MCV-82 
MCH-26.5 MCHC-32.4 RDW-14.6 RDWSD-42.9 Plt Ct-37*#

CXR: ___
IMPRESSION:  
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
This is a ___ F with history of ITP, thyroid CA s/p thyroidectomy 
and iron deficiency anemia who presented with petecchiae and was 
found to have platelet count of <5,000.

#ITP, with thrombocytopenia
The patient has a known history of ITP. She was seen by ___ 
hematology and started on Decadron 40mg daily. She was given one 
dose of IVIG and platelet count improved to 37,000. She was 
discharged home on one additional day of Decadron and will go 
for scheduled Rituxan infusion the following day (___)

#Thyroid cancer s/p Thyroidectomy
Continued Levothyroxine

#GERD
Continued PPI while on steroids

Transitional issues
Name of health care proxy: ___ 
Relationship: Husband 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Ferrous Sulfate 650 mg PO DAILY 
4. Cyanocobalamin Dose is Unknown  PO DAILY 
5. Ascorbic Acid ___ mg PO BID 

 
Discharge Medications:
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Ascorbic Acid ___ mg PO BID 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Ferrous Sulfate 650 mg PO DAILY 
6. Dexamethasone 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ITP with thrombocytopenia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with low platelets due to 
ITP. You were seen by the hematologists and given steroids and 
IVIG. Your platelets improved to 37, 000. You will need to take 
steroids tomorrow and follow up with your Hematologist on ___ 
___ for your scheduled Rituxan infusion. 

Your platelet count is still low and you are at risk for 
bleeding. If you develop bleeding, new brusing, headache, vision 
changes or weakness please return to the emergency department.  

 
Followup Instructions:
___